** Generated for: hspiceD
** Generated on: Jan  5 21:03:07 2020
** Design library name: PhasedArray_WB_copy
** Design cell name: Mixer
** Design view name: schematic


.TEMP 25.0
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_bip
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_33
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_mim
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_dnw
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_18
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_bip_npn
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_33
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfrtmom
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_mos_cap_25
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_18
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_disres
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_res
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_na
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfmos_33
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_hvt
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfmvar
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfmos_18
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_na
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_na33
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_lvt
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfres_sa
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_na33
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_esd
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfmim
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_25od33
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_25od33
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_mos_cap
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_25
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_25ud18
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_25
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfmos
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_25ud18
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_na25od33
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfjvar
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfmos_25
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rtmom
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_na25od33
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_na25
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfres_rpo
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_hvt
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfind
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfmvar_25
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_na25
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_lvt

** Library name: test_qmeng
** Cell name: MIXER_RFBIAS_RES
** View name: schematic
.subckt MIXER_RFBIAS_RES m p tail_bias
xr3  p net9   rppolywo l=6e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr0  net9 tail_bias   rppolywo l=6e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr1  tail_bias net05   rppolywo l=6e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr2  net05 m   rppolywo l=6e-6 w=1e-6 m=1 mf=1 mismatchflag=0

.ends MIXER_RFBIAS_RES
** End of subcircuit definition.

** Library name: test_qmeng
** Cell name: MIXER_LOSWBIAS_RES
** View name: schematic
.subckt MIXER_LOSWBIAS_RES mixer_lobias vdd vss
xr5  vdd net050   rppolywo l=4e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr4  net031 net034   rppolywo l=4e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr9  net049 net031   rppolywo l=4e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr6  net050 net051   rppolywo l=4e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr7  net051 mixer_lobias   rppolywo l=4e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr8  mixer_lobias net049   rppolywo l=4e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr0  net039 vss   rppolywo l=4e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr1  net033 net039   rppolywo l=4e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr3  net034 net036   rppolywo l=4e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr2  net036 net033   rppolywo l=4e-6 w=1e-6 m=1 mf=1 mismatchflag=0

.ends MIXER_LOSWBIAS_RES
** End of subcircuit definition.

** Library name: PhasedArray_WB_copy
** Cell name: MIXER_LOAD_RES_HBW
** View name: schematic
.subckt MIXER_LOAD_RES_HBW a b
xr4  b b   rppolys l=13e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr0  a net06   rppolys l=13e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr1  net06 net05   rppolys l=13e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr3  net05 b   rppolys l=13e-6 w=1e-6 m=1 mf=1 mismatchflag=0

.ends MIXER_LOAD_RES_HBW
** End of subcircuit definition.

** Library name: PhasedArray_WB_copy
** Cell name: Mixer
** View name: schematic
xm35 net051 tailm vss vss nmos_rf lr=240e-9 wr=3.6e-6 nr=12 sigma=1 m=1 mismatchflag=0
xm34 net039 tailp vss vss nmos_rf lr=240e-9 wr=3.6e-6 nr=12 sigma=1 m=1 mismatchflag=0
xm44<1> vss mixer_tail_iin vss vss nmos_rf lr=240e-9 wr=3.6e-6 nr=2 sigma=1 m=1 mismatchflag=0
xm44<2> vss mixer_tail_iin vss vss nmos_rf lr=240e-9 wr=3.6e-6 nr=2 sigma=1 m=1 mismatchflag=0
xm44<3> vss mixer_tail_iin vss vss nmos_rf lr=240e-9 wr=3.6e-6 nr=2 sigma=1 m=1 mismatchflag=0
xm44<4> vss mixer_tail_iin vss vss nmos_rf lr=240e-9 wr=3.6e-6 nr=2 sigma=1 m=1 mismatchflag=0
xm44<5> vss mixer_tail_iin vss vss nmos_rf lr=240e-9 wr=3.6e-6 nr=2 sigma=1 m=1 mismatchflag=0
xm44<6> vss mixer_tail_iin vss vss nmos_rf lr=240e-9 wr=3.6e-6 nr=2 sigma=1 m=1 mismatchflag=0
xm44<7> vss mixer_tail_iin vss vss nmos_rf lr=240e-9 wr=3.6e-6 nr=2 sigma=1 m=1 mismatchflag=0
xm44<8> vss mixer_tail_iin vss vss nmos_rf lr=240e-9 wr=3.6e-6 nr=2 sigma=1 m=1 mismatchflag=0
xm43 vss vss vss vss nmos_rf lr=60e-9 wr=2e-6 nr=4 sigma=1 m=2 mismatchflag=0
xm38 mixer_tail_iin mixer_tail_iin vss vss nmos_rf lr=240e-9 wr=3.6e-6 nr=2 sigma=1 m=1 mismatchflag=0
xm39 pbias mixer_tail_iin vss vss nmos_rf lr=240e-9 wr=3.6e-6 nr=2 sigma=1 m=1 mismatchflag=0
xm7 ifm oscp net039 net039 nmos_rf lr=60e-9 wr=2e-6 nr=4 sigma=1 m=1 mismatchflag=0
xm13 ifp oscp net051 net051 nmos_rf lr=60e-9 wr=2e-6 nr=4 sigma=1 m=1 mismatchflag=0
xm12 ifm oscm net051 net051 nmos_rf lr=60e-9 wr=2e-6 nr=4 sigma=1 m=1 mismatchflag=0
xm11 ifp oscm net039 net039 nmos_rf lr=60e-9 wr=2e-6 nr=4 sigma=1 m=1 mismatchflag=0
xm29 vdd vdd vdd vdd pmos_rf lr=240e-9 wr=2.05e-6 nr=8 sigma=1 m=2 mismatchflag=0
xm16 pbias pbias vdd vdd pmos_rf lr=240e-9 wr=2.05e-6 nr=8 sigma=1 m=2 mismatchflag=0
xm24 ifp pbias vdd vdd pmos_rf lr=240e-9 wr=2.05e-6 nr=24 sigma=1 m=2 mismatchflag=0
xm23 ifm pbias vdd vdd pmos_rf lr=240e-9 wr=2.05e-6 nr=24 sigma=1 m=2 mismatchflag=0
xi29 tailm tailp mixer_tail_iin MIXER_RFBIAS_RES
xi12 oscp vdd vss MIXER_LOSWBIAS_RES
xi21 oscm vdd vss MIXER_LOSWBIAS_RES
xi33 ifp vdd MIXER_LOAD_RES_HBW
xi17 ifm vdd MIXER_LOAD_RES_HBW
xr1<1>  vss net040<0>   rppolys l=13e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr1<2>  vss net040<1>   rppolys l=13e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr1<3>  vss net040<2>   rppolys l=13e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr1<4>  vss net040<3>   rppolys l=13e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xc15 lop oscp vss mimcap_woum_sin_rf lt=32e-6 wt=16e-6 lay=7 m=1 mimflag=3 mismatchflag=0
xc6 rfm tailm vss mimcap_woum_sin_rf lt=22e-6 wt=22e-6 lay=7 m=1 mimflag=3 mismatchflag=0
xc7 rfp tailp vss mimcap_woum_sin_rf lt=22e-6 wt=22e-6 lay=7 m=1 mimflag=3 mismatchflag=0
xc14 lom oscm vss mimcap_woum_sin_rf lt=32e-6 wt=16e-6 lay=7 m=1 mimflag=3 mismatchflag=0
xr2  ifp outp   rppolywo l=6e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr5<1>  vss net043<0>   rppolywo l=6e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr5<2>  vss net043<1>   rppolywo l=6e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr5<3>  vss net043<2>   rppolywo l=6e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr5<4>  vss net043<3>   rppolywo l=6e-6 w=1e-6 m=1 mf=1 mismatchflag=0

xr0  outm ifm   rppolywo l=6e-6 w=1e-6 m=1 mf=1 mismatchflag=0

.END
